### PR TITLE
[Merged by Bors] - feat(GroupTheory/Subgroup/Centralizer): The `N/C` theorem

### PR DESCRIPTION
**Pull request by tb65536**
This PR adds the `N/C` theorem that `Normalizer(H)/Centralizer(H)` embeds as a subgroup of `Aut(H)`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Subgroup/Centralizer.lean [hunk 1]
```diff
@@ -77,4 +77,22 @@ variable (H)
 theorem le_centralizer [h : H.IsCommutative] : H ≤ centralizer H :=
   le_centralizer_iff_isCommutative.mpr h
 
+/-- The homomorphism `Normalizer(H) → Aut(H)` with kernel `Centralizer(H)`. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Subgroup/Centralizer.lean:80]: You're using code formatting here, but not the lean names. Probably you should do both or neither

File: Mathlib/GroupTheory/Subgroup/Centralizer.lean [hunk 2]
```diff
@@ -77,4 +77,22 @@ variable (H)
...
+@[simps]
+def normalizer_monoidHom : H.normalizer →* MulAut H where
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Subgroup/Centralizer.lean:82]: Is this additivizable?

Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Subgroup/Centralizer.lean:82]: I don't think there should any underscores in this name

Comment (tb65536) [reply Mathlib/GroupTheory/Subgroup/Centralizer.lean:82]: No, because `MulAut` doesn't play well with `to_additive` (for instance, `MulAut` is a multiplicative group, and `AddAut` is also a multiplicative group).

File: Mathlib/GroupTheory/Subgroup/Centralizer.lean [hunk 3]
```diff
@@ -94,4 +94,22 @@ abbrev closureCommGroupOfComm {k : Set G} (hcomm : ∀ x ∈ k, ∀ y ∈ k, x *
...
+  toFun := fun g ↦
+    { toFun := fun h ↦ ⟨g * h * g⁻¹, (g.2 h).mp h.2⟩
+      invFun := fun h ↦ ⟨g⁻¹ * h * g, (mem_normalizer_iff''.mp g.2 h).mp h.2⟩
+      left_inv := fun _ ↦ by simp [mul_assoc]
+      right_inv := fun _ ↦ by simp [mul_assoc]
+      map_mul' := by simp [mul_assoc] }
+  map_one' := by simp [DFunLike.ext_iff]
+  map_mul' := by simp [DFunLike.ext_iff, mul_assoc]
+
+/-- The N/C theorem: N(H)/C(H) is isomorphic to a subgroup of Aut(H). -/
```
Comment (urkud) [inline Mathlib/GroupTheory/Subgroup/Centralizer.lean:109]: This theorem says nothing about the quotient, only about the kernel. If you want to claim `N/C`, then you should add a definition for an injective hom `N/C ->* MulAut H` by using the quotient group API.

File: Mathlib/GroupTheory/Subgroup/Centralizer.lean [hunk 4]
```diff
@@ -94,4 +94,22 @@ abbrev closureCommGroupOfComm {k : Set G} (hcomm : ∀ x ∈ k, ∀ y ∈ k, x *
       have := closure_le_centralizer_centralizer k
       Subtype.ext <| Set.centralizer_centralizer_comm_of_comm hcomm _ (this h₁) _ (this h₂) }
 
+/-- The homomorphism N(H) → Aut(H) with kernel C(H). -/
+@[simps]
+def normalizerMonoidHom : H.normalizer →* MulAut H where
```
Comment (urkud) [inline Mathlib/GroupTheory/Subgroup/Centralizer.lean:99]: Do we have a `MulAction H.normalizer H` with `MulDistribMulAction` instance? If yes, then this will follow from the general theory.

File: Mathlib/GroupTheory/Subgroup/Centralizer.lean (hunk 3 above)
Comment (tb65536) [reply Mathlib/GroupTheory/Subgroup/Centralizer.lean:109]: Fair enough. I'll change the docstring. I don't think having the quotient map is super helpful.

File: Mathlib/GroupTheory/Subgroup/Centralizer.lean (hunk 4 above)
Comment (urkud) [reply Mathlib/GroupTheory/Subgroup/Centralizer.lean:99]: I suggest that you add instances for `MulAction H.normalizer H` and `MulDistribMulAction H.normalizer H` (by moving parts of your proof to the instances), then use [MulDistribMulAction.toMulAut](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GroupWithZero/Action/Basic.html#MulDistribMulAction.toMulAut) to get the hom. This way `SMul` doesn't depend on bundled homomorphisms, which may be good for resolving defeq diamonds in the future.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
